US06147078
STEP C: 3-AMINO-2-BROMO-5-METHYLTHIOPYRAZINE
NBS (3.28 G, 18.4 MMOL) WAS SLOWLY ADDED TO A STIRRED SOLUTION OF 6-AMINO-2-METHYLTHIOPYRAZINE (2.6 G, 18.4 MMOL) IN CHLOROFORM (100 ML). AFTER 1 H THE REACTION MIXTURE WAS PARTITIONED BETWEEN 10% SODIUM METABISULFITE SOLUTION AND CHLOROFORM. THE ORGANIC LAYER WAS DRIED (NA2SO4) AND EVAPORATED IN VACUO. THE CRUDE PRODUCT WAS PURIFIED BY FLASH COLUMN CHROMATOGRAPHY ON SILICA GEL (20% ETHYL ACETATE/HEXANES) TO GIVE THE TITLE COMPOUND AS A CRYSTALLINE SOLID: 1H NMR (CDCL3): Δ 2.49 (S, 3H), 4.97 (BR S, 2H), 7.59 (S, 1H).

reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 6-AMINO-2-METHYLTHIOPYRAZINE | NC1=CN=CC(=N1)SC | C5H7N3S
solvent | CHLOROFORM | C(Cl)(Cl)Cl | CHCl3
product | 3-AMINO-2-BROMO-5-METHYLTHIOPYRAZINE | NC=1C(=NC=C(N1)SC)Br | C5H6BrN3S
